US05840751
5,6-Dihydro-4-hydroxy-3-(5-methyl-2-isopropylphenylthio)-6,6-diphenyl-2H-pyran-2-one
The title compound was prepared as described in General Method 6 from 2.0 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (prepared in example AAA), 2.1 mmol of 5-methyl-2-isopropylbenzenethiol, and 2.1 mmol of piperidine in 30 mL of dichloromethane. The product was chromatographed on silica gel, eluting first with chloroform and then with 5% methanol in chloroform (m.p. 183°-184° C.). 1H NMR (DMSO-d6) δ 1.15 (d, 6 H), 1.85 (s, 3 H), 3.22 (m, 1 H), 3.80 (bs, 2 H), 5.88 (bs, 1 H), 6.77 (d, 1 H), 7.03 (d, 1 H), 7.32-7.47 (m, 10 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 2.0 mmol | BrC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H13BrO3
reactant | 5-methyl-2-isopropylbenzenethiol | 2.1 mmol | CC=1C=CC(=C(C1)S)C(C)C | C10H14S
reactant | piperidine | 2.1 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-3-(5-methyl-2-isopropylphenylthio)-6,6-diphenyl-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)SC1=C(C=CC(=C1)C)C(C)C | C27H26O3S
